US07173058B2
To a solution of 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid (470 mg, 1.04 mmol) in tetrahydrofurane (10 ml) was added carbonyldiimidazole (250 mg, 1.56 mmol) at room temperature. The solution was stirred at room temperature for 2 hours. To the mixture was added dimethylamine (2.0N in THF, 1.0 ml, 2.0 mmol). The resulted mixture was stirred at room temperature for 3 hours. Water (20 ml) was added to the reaction mixture. The solvent was removed in vacuo. The resulted mixture was dissolved in ethyl acetate (30 ml) and extracted with water (20 ml). The organic layer was washed with saturated sodium bicarbonate solution (3×20 ml), water (20 ml), brine (20 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The resulted oil was stirred with ether overnight. The suspension was filtered to give a yellowish solid. The solid was purified by HPLC (CH3CN: Water=45:55) to give 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-N,N-dimethyl-propionamide as a white solid (160 mg, 30%): mp 80–82° C.; 1H NMR: δ(CDCl3): δ 0.33–0.39 (m, 2H), 0.60–0.68 (m, 2H), 1.21–1.30 (m, 1H), 2.25 (s, 3H), 2.90 (s, 3H), 2.97 (dd, J=5 Hz, the other doublet is buried, 1H), 3.05 (s, 3H), 3.87 (d, J=7.5 Hz, 2H), 3.94 (dd, J=10 Hz, the other doublet is buried, 1H), 5.83 (dd, J=5, 10 Hz, 1H), 6.69 (t, JH-F=75 Hz, 1H), 7.12–7.15 (m, 3H), 7.45 (d, J=7.5 Hz, 1H), 7.62 (t, J=7.5 Hz, 1H), 8.73 (d, J=8.5 Hz, 1H), 9.53 (s, 1H). 13C NMR (CDCl3): δ 3.8, 3.9, 10.8, 25.6, 35.4, 36.1, 37.7, 51.9, 74.5, 112.6, 116.7, 120.8, 114.9, 116.0, 118.5, 120.9, 123.4, 125.3, 131.9, 136.4, 138.0, 138.6, 140.7, 151.2, 168.7, 169.8, 169.9, 170.6; Anal. Calcd. for C26H27F2N3O6: C, 60.58; H, 5.28; N, 8.15. Found: C, 60.23; H, 5.26; N, 8.02.

reactant | 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid | 1.04 mmol, 470 mg | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)=O | C24H22F2N2O7
reactant | carbonyldiimidazole | 1.56 mmol, 250 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | 2.0 mmol, 2.0N, 1.0 ml | CNC | C2H7N
reactant | Water | 20 ml | O | H2O
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
product | 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-N,N-dimethyl-propionamide | 160 mg, 30% | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)N(C)C)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)=O | C26H27F2N3O6
